US08455657B2
3.0 g of 2-methoxy-3-methylsulfinyl-4-trifluoromethylbenzoic acid and 1.02 g of 3-hydroxy-2-methylpyrazole are suspended in 30 ml of ethyl acetate and 4.21 ml of pyridine under an inert atmosphere and cooled to −20° C. with stirring. 1.24 g of thionyl chloride are then slowly added dropwise such that the temperature always remains below −15° C. Following the complete addition of the thionyl chloride, the mixture is stirred for a further 20 minutes and warmed to −10° C. 10 ml of cold water are then added, and the mixture is warmed to 0° C. After adding 40 ml of heptane, the suspension is filtered and washed with 20 ml of heptane, 10 ml of water and again with 20 ml of heptane. Drying gives 3.32 g of (5-hydroxy-1-methyl-1H-pyrazol-4-yl)[2-methoxy-3-(methylsulfinyl)-4-(trifluoromethyl)phenyl]methanone (84% yield).

reactant | 2-methoxy-3-methylsulfinyl-4-trifluoromethylbenzoic acid | 3.0 g | COC1=C(C(=O)O)C=CC(=C1S(=O)C)C(F)(F)F | C10H9F3O4S
reactant | 3-hydroxy-2-methylpyrazole | 1.02 g | OC=1N(N=CC1)C | C4H6N2O
reactant | pyridine | 4.21 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 1.24 g | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | heptane | 40 ml | CCCCCCC | C7H16
solvent | water | 10 ml | O | H2O
product | (5-hydroxy-1-methyl-1H-pyrazol-4-yl)[2-methoxy-3-(methylsulfinyl)-4-(trifluoromethyl)phenyl]methanone | 3.32 g, 84% yield | OC1=C(C=NN1C)C(=O)C1=C(C(=C(C=C1)C(F)(F)F)S(=O)C)OC | C14H13F3N2O4S
